US07468375B2
Step 2: Methyl (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylate dihydrochloride.
Thionylchloride (200 mL, 2.74 mol, 3.0 mol eqv.) was added dropwise to methanol (3.5 L), which was cooled to 0-5° C. (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride (210.0 g, 0.87 mol) was added The suspension was allowed to warm up to room temperature, and refluxed for 3.5 h. After cooling to room temperature, the solvent was removed under reduced pressure. The white residue was suspended in ether (3 L). The solid was filtered and washed with ether. After drying in a vacuum oven (40° C.), the title compound was obtained (225.0 g, 100% yield, 95% pure). 1H NMR (DMSO-d6): δ ppm 12.65 (br s, 2H), 9.04 (s, 1H), 4.71 (m, 1H), 4.33 (t, J=16.2 Hz, 2H), 3.81 (s, 3H), 3.10-3.33 (m, 2H), LCMS: Rt=0.61 min and M+1=182.1 u/e (M+1 of free base).

reactant | Thionylchloride | 2.74 mol, 200 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride | 0.87 mol, 210.0 g | Cl.Cl.N1=CNC=2CN[C@@H](CC21)C(=O)O
reactant | methanol | 3.5 L | CO | CH4O
product | Methyl (6S)-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylate dihydrochloride | 100% yield | Cl.Cl.N1=CNC=2CN[C@@H](CC21)C(=O)OC | InChI=1S/C8H11N3O2.2ClH/c1-13-8(12)6-2-5-7(3-9-6)11-4-10-5;;/h4,6,9H,2-3H2,1H3,(H,10,11);2*1H/t6-;;/m0../s1
